US08871766B2
D) (4-benzyl-4-hydroxypiperidin-1-yl) (2-(pyrimidin-4-yl) phenyl) methanone
A suspension of 2-(pyrimidin-4-yl)benzoic acid hydrochloride (0.20 g), 4-benzyl-4-hydroxypiperidine (0.24 g), HATU (0.48 g) and triethylamine (0.59 mL) in DMF (3.0 mL) was stirred overnight at room temperature. The reaction mixture was diluted with water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (0.11 g).

reactant | 2-(pyrimidin-4-yl)benzoic acid hydrochloride | 0.20 g | Cl.N1=CN=C(C=C1)C1=C(C(=O)O)C=CC=C1
reactant | 4-benzyl-4-hydroxypiperidine | 0.24 g | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
reactant | HATU | 0.48 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.59 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (4-benzyl-4-hydroxypiperidin-1-yl) (2-(pyrimidin-4-yl) phenyl) methanone | 0.11 g | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=C(C=CC=C1)C1=NC=NC=C1)O | C23H23N3O2
